US06624159B2
Diethyl 2-((2-(Hydroxymethyl)-4-methylanilino)methylene)malonate. [AV.2]
A mixture of 2-(hydroxymethyl)-4-methylaniline (10.0 g) and diethyl ethoxymethylenemalonate (18.5 g) is heated at 110° C. for 1 h. Crystallization from ether/hexane afforded 19.5 g of the title compound. Physical characteristics: M.p. 92-95° C.; Anal. Found: C, 62.49; H, 6.88; N, 4.60.

reactant | 2-(hydroxymethyl)-4-methylaniline | 10.0 g | OCC1=C(N)C=CC(=C1)C | C8H11NO
reactant | diethyl ethoxymethylenemalonate | 18.5 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl 2-((2-(Hydroxymethyl)-4-methylanilino)methylene)malonate | 19.5 g | OCC1=C(NC=C(C(=O)OCC)C(=O)OCC)C=CC(=C1)C | C16H21NO5
